US06147088
Step 14A Trifluoromethanesulfonic acid 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl ester
To a solution of 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one (1.0 g in 50 mL dry methylene chloride) was added 0.455 ml diazabicycloundecene and the mixture cooled to -78° C. To this was added trifluoromethanesulfonic anhydride (0.51 mL) dropwise via syringe and the mixture stirred at low temperature. After 1 hour, the reaction was quenched by the addition of saturated ammonium chloride (35 mL) and extracted with ethyl acetate (3×75 mL). The organics were washed with water (50 mL) and brine (50 mL) then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 3:2) gave the title compound (629 mg).

reactant | diazabicycloundecene | 0.455 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | trifluoromethanesulfonic anhydride | 0.51 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 7-chloro-3-(3,5-dimethylphenyl)-4-hydroxy-6-nitro-1H-quinolin-2-one | 50 mL, 1.0 g | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)O)[N+](=O)[O-] | C17H13ClN2O4
product | Trifluoromethanesulfonic acid 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl ester | 629 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C18H12ClF3N2O6S
